US08466167B2
A solution of tert-butyl 5-methyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate (1.3 eq.) and 3-chloro-5-((4-(dimethylamino)-2-methylphenyl)ethynyl)picolinonitrile (from the previous step) (1.0 eq.), tetrakis(triphenyl-phosphine)palladium (10 mol %), and 2N aqueous sodium carbonate solution (2.0 eq.) in toluene/ethanol (2:1, 0.17 M) was stirred at 100° C. overnight. After cooling to ambient temperature, the reaction mixture was diluted with methanol. The insoluble solids were filtered off, and the filtrate was concentrated en vaccuo to obtain a crude residue. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-80% ethyl acetate in hexane to give 2-((4-(dimethylamino)-2-methylphenyl)ethynyl)-8-methylbenzo[f][1,7]naphthyridin-5-amine as a yellow solid.

reactant | tert-butyl 5-methyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate | 1.3 eq. | CC=1C=CC(=C(C1)NC(OC(C)(C)C)=O)B1OC(C(O1)(C)C)(C)C | C18H28BNO4
reactant | 3-chloro-5-((4-(dimethylamino)-2-methylphenyl)ethynyl)picolinonitrile | ClC=1C(=NC=C(C1)C#CC1=C(C=C(C=C1)N(C)C)C)C#N | C17H14ClN3
reactant | sodium carbonate | 2N, 2.0 eq. | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene ethanol | 0.17 M | C1(=CC=CC=C1)C.C(C)O
solvent | methanol | CO | CH4O
product | 2-((4-(dimethylamino)-2-methylphenyl)ethynyl)-8-methylbenzo[f][1,7]naphthyridin-5-amine | CN(C1=CC(=C(C=C1)C#CC=1C=NC2=C(N=C3C(=C2C1)C=CC(=C3)C)N)C)C | C24H22N4
